US08664233B2
650 mg (1.90 mmol) 7-bromo-2-(4-piperidyl)-5H-pyrimido[5,4-b]indol-4-ol were kept at reflux in POCl3 for 9 h. Then, POCl3 was removed in vacuo, the residue was mixed with water and neutralized with NaHCO3. The precipitate formed was sucked off and washed with water. 500 mg (72%) 7-bromo-4-chloro-2-(4-piperidyl)-5H-pyrimido[5,4-b]indole was obtained. ESI-MS [m/z]: 365, 367 [M+H]+

reactant | 7-bromo-2-(4-piperidyl)-5H-pyrimido[5,4-b]indol-4-ol | 1.90 mmol, 650 mg | BrC=1C=CC=2C3=C(NC2C1)C(=NC(=N3)C3CCNCC3)O | C15H15BrN4O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-bromo-4-chloro-2-(4-piperidyl)-5H-pyrimido[5,4-b]indole | 500 mg, 72% | BrC=1C=CC=2C3=C(NC2C1)C(=NC(=N3)C3CCNCC3)Cl | C15H14BrClN4
